US07253286B2
6,7-Dimethoxy-4-(3-aminopropoxy)quinoline
N-(3-(6,7-Dimethoxyquinolin-4-yloxy)propyl)phthalimide (600 mg, 1.53 mM), hydrazine monohydrate (300 mg, 6.12 mM), ethanol (5 ml), methanol (5 ml) and tetrahydrofuran (5 ml) were stirred for 2 hours under reflux. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel chromatography (Fuji Silysia NH Type Silica Gel, chloroform:methanol=20:1) to obtain the target substance (150 mg) as a brown oil.

reactant | N-(3-(6,7-Dimethoxyquinolin-4-yloxy)propyl)phthalimide | 1.53 mM, 600 mg | COC=1C=C2C(=CC=NC2=CC1OC)OCCCN1C(C=2C(C1=O)=CC=CC2)=O | C22H20N2O5
reactant | hydrazine monohydrate | 6.12 mM, 300 mg | O.NN
reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | methanol | 5 ml | CO | CH4O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 6,7-Dimethoxy-4-(3-aminopropoxy)quinoline | COC=1C=C2C(=CC=NC2=CC1OC)OCCCN | C14H18N2O3
